US07728025B2
(Step 3) Production of N-(4-benzyloxy-5-fluoro-2-nitrophenyl)pyrazinecarboxamide
40 ml of trifluoroacetic acid and 1.99 g of potassium nitrate were added to a chloroform (40 ml) suspension of 5.80 g of N-(4-benzyloxy-3-fluorophenyl)pyrazinecarboxamide, with cooling with ice, and the reaction liquid was stirred overnight at room temperature. The solvent was evaporated away under reduced pressure, and aqueous saturated sodium bicarbonate was added to it. The resulting solid was washed with a mixed solvent of ethyl acetate and hexane to obtain the entitled compound as a yellow solid.

reactant | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium nitrate | 1.99 g | [N+](=O)([O-])[O-].[K+]
reactant | N-(4-benzyloxy-3-fluorophenyl)pyrazinecarboxamide | 5.80 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)NC(=O)C1=NC=CN=C1)F | C18H14FN3O2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-benzyloxy-5-fluoro-2-nitrophenyl)pyrazinecarboxamide | C(C1=CC=CC=C1)OC1=CC(=C(C=C1F)NC(=O)C1=NC=CN=C1)[N+](=O)[O-] | C18H13FN4O4
